* OVERALL BEST CANDIDATE: 00_Phase_2_9V_to_80V_Specialized_Boost_g1_cand2_b1
* FITNESS SCORE: 0.5117
*
* Generated: 2026-06-01T02:56:10
* Constraint: Phase 2: 9V to 80V Specialized (Boost)
*   vin_min = 8
*   vin_max = 10
*   vout_target = 80
*   efficiency_target = 0.86
*   power_in = 80
* Candidate: 2 of 8
* Grouped name: g1_cand2
*
Vin in 0 8
L1 in sw 220u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 6
Vgate gate 0 PULSE(0 12 0 1n 1n 5.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1u 10m
.save V(*) I(*)
.end
